US05116863
Process A: 11-Hydroxy-2-(2-hydroxyethyl)-6,11-dihydrodibenz [b,e]oxepin
In this process, 20 g of methyl 11-oxo-6,11-dihydrodibenz[b,e]oxepin-2-acetate is dissolved in 500 ml of tetrahydrofuran. To the solution is added 6.0 g of lithium alminium hydroxide and the mixture is stirred at room temperature for one hour. After decomposing an excess of the reagent by the addition of water to the solution, the mixture is filtered to remove an inorganic salts and the filtrate is concentrated to dryness under reduced pressure to obtain 17.7 g of the desired product as a white solid.

reactant | lithium | 6.0 g | [Li] | Li
reactant | hydroxide | [OH-]
reactant | water | O | H2O
reactant | methyl 11-oxo-6,11-dihydrodibenz[b,e]oxepin-2-acetate | 20 g | O=C1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CC(=O)OC | C17H14O4
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 11-Hydroxy-2-(2-hydroxyethyl)-6,11-dihydrodibenz [b,e]oxepin | 17.7 g | OC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)CCO | C16H16O3
